US08212032B2
To a solution of 4-bromo-2-chlorobenzonitrile (2 g, 9.24 mmol) in Tetrahydrofuran (THF) (10 ml) was added aluminum hydride (37.0 ml, 18.48 mmol) in THF. The reaction mixture was acidified with 1N HCl to pH=4. The mixture was washed with ether (2×50 ml). The aqueous layer was separated and it was adjusted with 1N NaOH to pH=10. The mixture was extracted with ether. The organic layer was separated and dried over Na2SO4. The solvent was evacuated to give 1-(4-bromo-2-chlorophenyl)methanamine (1.8 g, 8.2 mmol, 88%). MS (ES+): m/e 220, 222 [M+H]+.

reactant | 4-bromo-2-chlorobenzonitrile | 9.24 mmol, 2 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | aluminum hydride | 18.48 mmol, 37.0 ml | [H-].[Al+3].[H-].[H-]
reactant | HCl | 1N | Cl | ClH
solvent | Tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-bromo-2-chlorophenyl)methanamine | 8.2 mmol, 1.8 g, 88% | BrC1=CC(=C(C=C1)CN)Cl | C7H7BrClN
